US04547501
(a) Preparation of 1-ethyl-4,7-dimethoxy-[1,2,4]triazolo[4,3-a]quinoxaline
A mixture consisting of 4.0 g. (0.018 mole) of 3,6-dimethoxy-2-hydrazinoquinoxaline, the product of Preparation E(d), and 50 ml. of triethyl orthopropionate was heated with mechanical stirring in a preheated oil bath at 100° C. overnight (~16 hours). The resulting reaction mixture was then cooled to room temperature (~20° C.), and the precipitate which formed was subsequently recovered by means of suction filtration and washed with ethanol to ultimately afford 3.3 g. (72%) of pure 4,7-dimethoxy-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 184°-188° C. Mass Spectrum: m/e, 258 (P); m/e, 228 (P-30).

reactant | 3,6-dimethoxy-2-hydrazinoquinoxaline | 0.018 mole | COC=1C(=NC2=CC=C(C=C2N1)OC)NN | C10H12N4O2
reactant | triethyl orthopropionate | C(CC)(OCC)(OCC)OCC | C9H20O3
product | 1-ethyl-4,7-dimethoxy-[1,2,4]triazolo[4,3-a]quinoxaline | C(C)C1=NN=C2N1C1=CC=C(C=C1N=C2OC)OC | C13H14N4O2
